US08809342B2
tert-butyl (5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)carbamate
5-(4-(trifluoromethyl)phenyl)pyrazin-2-amine (4.40 g, 18.4 mmol) was suspended in acetonitrile (92 mL) and dimethylaminopyridine (116 mg, 920 μmol) was added in one portion. di-tert-butyl dicarbonate (4.01 g, 18.4 mmol) was then added and the reaction mixture was stirred overnight at room temperature. Reaction mixture diluted with citric acid solution (10% aq.)/water (1/1). After stirring for 5 minutes the reaction mixture was transferred to an extraction funnel and extracted with DCM (3×). Combined organic layers washed with water (1×), with brine (1×), dried over sodium sulfate, filtered and concentrated to provide the crude material. Purification by silica gel flash chromatography (Ethyl Acetate/DCM) provide the title compound as a white solid (3.14 g, 50.3%) 1H NMR (400 MHz, CHLOROFORM-d) δ 1.57-1.61 (m, 9 H) 7.74 (d, J=8.22 Hz, 2 H) 8.09 (d, J=8.02 Hz, 2 H) 8.13 (s, 1 H) 8.71 (d, J=1.56 Hz, 1 H) 9.40 (d, J=1.17 Hz, 1 H); MS (M+1): 340.1.

reactant | 5-(4-(trifluoromethyl)phenyl)pyrazin-2-amine | 18.4 mmol, 4.40 g | FC(C1=CC=C(C=C1)C=1N=CC(=NC1)N)(F)F | C11H8F3N3
reactant | dimethylaminopyridine | 920 μmol, 116 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 18.4 mmol, 4.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 92 mL | C(C)#N | C2H3N
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
product | tert-butyl (5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)carbamate | 3.14 g, 50.3% | FC(C1=CC=C(C=C1)C=1N=CC(=NC1)NC(OC(C)(C)C)=O)(F)F | C16H16F3N3O2
